US05204326
Preparation of Z-Tyr(CH2COOBzl)-OCH3
Under ice-cooling condition, to 25 ml of DMF solution containing 5.70 g of Z-Tyr-OCH3 was added 692 mg of sodium hydride (containing 60%) and the mixture was stirred for 30 minutes, then 3.96 g of benzyl bromoacetate was added thereto and the whole mixture was stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and the residue thus obtained was extracted with 100 ml of ethyl acetate. The ethyl acetate layer was washed with water and a saturated sodium chloride aqueous solution twice, respectively, then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was added to a silica gel column and eluted with petroleum ether-chloroform (1:4) to obtain 6.00 g (yield: 72.6%) of the above-mentioned objective product.

reactant | Z-Tyr-OCH3 | 5.70 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C18H19NO5
reactant | sodium hydride | 692 mg | [H-].[Na+]
reactant | benzyl bromoacetate | 3.96 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Z-Tyr(CH2COOBzl)-OCH3 | 6.00 g, yield: 72.6% | N([C@@H](CC1=CC=C(C=C1)OCC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H27NO7
